US08460635B2
4-amino-2-Iodophenol (Compound 7 in Scheme 3)
To a yellow suspension of 2,6-diiodo-4-nitrophenol (2.5 g, 6.44 mmol) in 50 mL of 25% NaOH, was added sodium dithionite (36 g) and the reaction mixture was heated and stirred at 75° C., until it was tuned white. After the reaction mixture was cooled to room temperature, 50 mL deionized water was added, and extracted with ethyl acetate (50 mL×5). The combined extracts were washed with water (30 mL×3), brine (30 mL) and dried with Na2SO4. Removed the solvent to give a brown oil, which was purified by flushing chromatography column, eluant with system A Hexane/ethyl acetate (6/1), then system B Hexane/ethyl acetate (3/1) to give a brown solid (0.27 g). 1H-NMR(300 MHz, DMSO): δ9.23 (s, 1H), 7.00˜6.99 (d, 1H), 6.64˜6.61 (d, 1H), 6.52˜6.48 (d, 1H), 5.25 (bs, 2H).

reactant | 2,6-diiodo-4-nitrophenol | 6.44 mmol, 2.5 g | IC1=C(C(=CC(=C1)[N+](=O)[O-])I)O | C6H3I2NO3
reactant | sodium dithionite | 36 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | NaOH | 50 mL | [OH-].[Na+]
product | 4-amino-2-Iodophenol | 0.27 g | NC1=CC(=C(C=C1)O)I | C6H6INO
